US04250085
In a manner analogous to that described in Example 5(A)(iii), from the monobenzylamine salt of (1R)-1-[(N-benzyloxycarbonyl-glycyl-L-norvalyl)amino]-ethylphosphonic acid there was obtained (1R)-1-(glycyl-L-norvalylamino)-ethylphosphonic acid of melting point 265°-267° C. (decomposition); [α]D20 =-74.2°; [α]36520 =-271° (c=0.49% in water).

reactant | monobenzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | (1R)-1-[(N-benzyloxycarbonyl-glycyl-L-norvalyl)amino]-ethylphosphonic acid | C(C1=CC=CC=C1)OC(=O)NCC(=O)N[C@@H](CCC)C(=O)N[C@@H](C)P(O)(O)=O | C17H26N3O7P
product | (1R)-1-(glycyl-L-norvalylamino)-ethylphosphonic acid | NCC(=O)N[C@@H](CCC)C(=O)N[C@@H](C)P(O)(O)=O | C9H20N3O5P
